### PR TITLE
[Merged by Bors] - feat: HahnModule action by HahnSeries

### PR DESCRIPTION
**Pull request by ScottCarnahan**
Given a `SMul R V` instance, we introduce `HahnModule Γ R V` as an alias for HahnSeries Γ V, and produce a `SMul (HahnSeries Γ R) (HahnModule Γ R V)` instance.  We use the `SMul` instance to shorten the `Mul` instance.  We will work our way up to `Module (HahnSeries Γ R) (HahnModule Γ R V)` in a later PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/HahnSeries.lean [hunk 1]
```diff
@@ -609,22 +609,38 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
 
-instance [NonUnitalNonAssocSemiring R] : Mul (HahnSeries Γ R) where
-  mul x y :=
-    { coeff := fun a =>
-        ∑ ij in addAntidiagonal x.isPWO_support y.isPWO_support a, x.coeff ij.fst * y.coeff ij.snd
-      isPWO_support' :=
+variable {V : Type*} [AddCommMonoid V]
+
+instance instSMulHahn [Zero R] [SMul R V] : SMul (HahnSeries Γ R)
+    (HahnSeries Γ V) where
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries.lean:615]: This instance is a risky one, because if `V` is itself `HahnSeries` then there are two different actions.
This is the same as the reason why having `R[X]` act on `A[X]` is a bad idea, because then `R[X]` has two different actions on `R[X][X]` written the same way. I think it would probably be best not to have this instance, to match what we do with polynomials.

**Review by eric-wieser — COMMENTED** [review]
Looking again, I guess my objection unfortunately extends to the entire PR. SMul only really works if you promise to only create instances of the form `SMul R S -> SMul R (F S)`, and never to create instances of the form `SMul R S -> SMul (F R) (F S)`,

File: Mathlib/RingTheory/HahnSeries.lean (hunk 1 above)
Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries.lean:615]: I see.  Should I make a type alias, like in `Mathlib.Data.Polynomial.Module`?

File: Mathlib/RingTheory/HahnSeries.lean [hunk 2]
```diff
@@ -618,22 +618,79 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+  add_comm := fun x y => by
+    ext
+    apply add_comm
+
+@[simp]
+theorem add_coeff'' [SMul R V] {x y : HahnModule Γ R V} {a : Γ} :
+    (x + y).coeff a = x.coeff a + y.coeff a := rfl
+
+instance instSMulHahn [Zero R] [SMul R V] : SMul (HahnSeries Γ R)
+    (HahnModule Γ R V) where
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries.lean:665]: I think it would be good to have all of this in a `namespace HahnModule`. Could you please refactor the file a bit to make this possible?

Comment (jcommelin) [reply Mathlib/RingTheory/HahnSeries.lean]: Sounds good

File: Mathlib/RingTheory/HahnSeries.lean [hunk 3]
```diff
@@ -618,22 +622,109 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+    apply zero_add
+  add_zero x := by
+    ext
+    apply add_zero
+  add_comm := fun x y => by
+    ext
+    apply add_comm
+
+@[simp]
+theorem add_coeff'' [SMul R V] {x y : HahnModule Γ R V} {a : Γ} :
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries.lean:670]: Now that it is namespaced, I hope we can get rid of the `''`.
```suggestion
theorem add_coeff [SMul R V] {x y : HahnModule Γ R V} {a : Γ} :
```

File: Mathlib/RingTheory/HahnSeries.lean [hunk 4]
```diff
@@ -618,22 +622,109 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
-                  x.coeff ij.fst * y.coeff ij.snd) ≠
+                  x.coeff ij.fst • y.coeff ij.snd) ≠
                 0 } ⊆
             { a : Γ | (addAntidiagonal x.isPWO_support y.isPWO_support a).Nonempty } := by
           intro a ha
           contrapose! ha
           simp [not_nonempty_iff_eq_empty.1 ha]
         isPWO_support_addAntidiagonal.mono h }
 
+theorem smul_coeff' [Zero R] [SMul R V] {x : HahnSeries Γ R}
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries.lean:690]:
```suggestion
theorem smul_coeff [Zero R] [SMul R V] {x : HahnSeries Γ R}
```

File: Mathlib/RingTheory/HahnSeries.lean [hunk 5]
```diff
@@ -618,22 +622,109 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+    {y : HahnModule Γ R V} {a : Γ} : (x • y).coeff a = ∑ ij in addAntidiagonal x.isPWO_support
+    y.isPWO_support a, x.coeff ij.fst • y.coeff ij.snd := rfl
+
+instance instSMulZeroClass [Zero R] [SMulZeroClass R V] : SMulZeroClass (HahnSeries Γ R)
+    (HahnModule Γ R V) where
+  smul_zero := fun _ => by
+    ext
+    simp [smul_coeff']
+
+theorem smul_coeff_right' [Zero R] [SMulZeroClass R V] {x : HahnSeries Γ R}
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries.lean:700]:
```suggestion
theorem smul_coeff_right [Zero R] [SMulZeroClass R V] {x : HahnSeries Γ R}
```

File: Mathlib/RingTheory/HahnSeries.lean [hunk 6]
```diff
@@ -618,22 +622,109 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+    {y : HahnModule Γ R V} {a : Γ} {s : Set Γ} (hs : s.IsPWO) (hys : y.support ⊆ s) :
+    (x • y).coeff a =
+      ∑ ij in addAntidiagonal x.isPWO_support hs a, x.coeff ij.fst • y.coeff ij.snd := by
+  rw [smul_coeff']
+  apply sum_subset_zero_on_sdiff (addAntidiagonal_mono_right hys) _ fun _ _ => rfl
+  intro b hb
+  simp only [not_and, mem_sdiff, mem_addAntidiagonal, HahnSeries.mem_support, not_imp_not] at hb
+  rw [hb.2 hb.1.1 hb.1.2.2, smul_zero]
+
+theorem smul_coeff_left' [Zero R] [SMulWithZero R V] {x : HahnSeries Γ R}
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries.lean:710]:
```suggestion
theorem smul_coeff_left [Zero R] [SMulWithZero R V] {x : HahnSeries Γ R}
```

File: Mathlib/RingTheory/HahnSeries.lean [hunk 7]
```diff
@@ -618,22 +622,109 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+  HahnSeries Γ V
+
+namespace HahnModule
+
+@[ext]
+theorem ext {Γ R V} [PartialOrder Γ] [Zero V] [SMul R V]
+    (x y : HahnModule Γ R V) (coeff : x.coeff = y.coeff) : x = y := by
+  simp_all only [HahnSeries.coeff_inj]
+
+variable {V : Type*} [AddCommMonoid V]
```
Comment (jcommelin) [inline Mathlib/RingTheory/HahnSeries.lean:642]: I think every declaration in this namespace assumes `[SMul R V]`. Some other variables also occur a lot. Can you please see if you can move some of these "background assumptions" to this `variable` line?

Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries.lean]: It looks like `[SMul R V]` doesn't like to be mixed with `[SMulWithZero R V]` or `[SMulZeroClass R V]`, so I changed the `V` to `W` in the later results.

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge

File: Mathlib/RingTheory/HahnSeries.lean [hunk 8]
```diff
@@ -618,22 +622,111 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+    apply add_assoc
+  zero_add x := by
+    ext
+    apply zero_add
+  add_zero x := by
+    ext
+    apply add_zero
+  add_comm := fun x y => by
+    ext
+    apply add_comm
```
Comment (eric-wieser) [inline Mathlib/RingTheory/HahnSeries.lean:667]: You should be able to just copy across the other instance rather than building it from scratch

bors r-

bors d+

Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries.lean]: That looks great!  Thanks for fixing it!

File: Mathlib/RingTheory/HahnSeries.lean [hunk 9]
```diff
@@ -618,22 +622,111 @@ theorem order_one [MulZeroOneClass R] : order (1 : HahnSeries Γ R) = 0 := by
...
+See `Mathlib.Data.Polynomial.Module` for more discussion on this problem. -/
+@[nolint unusedArguments]
+def HahnModule (Γ R V : Type*) [PartialOrder Γ] [Zero V] [SMul R V] :=
+  HahnSeries Γ V
+
+namespace HahnModule
+
+/-- The casting function to the type synonym. -/
+def of {Γ : Type*} (R : Type*) {V : Type*} [PartialOrder Γ] [Zero V] [SMul R V] :
+    HahnSeries Γ V ≃ HahnModule Γ R V := Equiv.refl _
```
Comment (alreadydone) [inline Mathlib/RingTheory/HahnSeries.lean:639]: Should this be marked reducible, because it's now used to define the `[NonUnitalNonAssocSemiring R] : Mul (HahnSeries Γ R)` instance?

Comment (ScottCarnahan) [reply Mathlib/RingTheory/HahnSeries.lean:639]: That sounds like it might be a good idea (but I don't know enough to judge).  I'll try putting it in #10846, which is still open.
